US08372864B2
18.1.1: Methyl 7-methyl-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate
Added to a solution of 0.385 g of methyl 7-bromo-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate in 9.6 cm3 of dioxane, 2 cm3 of water and one drop of dimethylformamide, at a temperature close to 20° C., are 190 mg of sodium bicarbonate. The reaction medium is then degassed under an argon atmosphere, then 58 mg of methylboronic acid and 93 mg of tetrakis(triphenylphosphine)palladium are added. The mixture is heated at 150° C. in a microwave oven for 8 minutes, cooled to a temperature close to 20° C., filtered and concentrated to dryness under reduced pressure (5 kPa). The filtrate is taken up by 20 cm3 of dichloromethane and 10 cm3 of water. The organic phase is extracted, washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure (5 kPa). The residual solution (around 4 cm3) is purified by flash chromatography over silica (column: 50 g; spherical silica of BP-SUP type, particle size: 20-40 μm; eluent: 80% heptane/20% ethyl acetate then 60% heptane/40% ethyl acetate then 100% ethyl acetate). After concentrating the fractions under reduced pressure, 35 mg of methyl 7-methyl-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate are obtained in the form of a colorless oil.

reactant | methyl 7-bromo-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate | 0.385 g | BrC=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)OC | C18H24BrNO3
reactant | sodium bicarbonate | 190 mg | C([O-])(O)=O.[Na+]
solvent | dioxane | 9.6 cm3 | O1CCOCC1 | C4H8O2
solvent | water | 2 cm3 | O | H2O
catalyst | dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | Methyl 7-methyl-1-oxo-2-(1-propylbutyl)-1,2,3,4-tetrahydroisoquinoline-5-carboxylate | CC=1C=C(C=2CCN(C(C2C1)=O)C(CCC)CCC)C(=O)OC | C19H27NO3
